US04182881
4-Amino-N-[diaminophosphinyl]benzamide
30 g (0.12 mole) of N-[diaminophosphinyl]-4-nitrobenzamide in 800 ml of absolute alcohol was reduced using 4.0 g of 5% Pd/C containing 50% water. A hydrogen uptake of 19.9 psi. was recorded after 60 hr. (theoretical 24 psi.). Added 2000 ml of absolute alcohol and 2000 ml of dimethylformamide to dissolve. The catalyst was removed by filtration and the filtrate flash-evaporated down to 125 ml. Chilled to 0°, filtered and washed with anhydrous ethyl ether to yield 12.4 g (48%), m.p. darkens 168°-172°, softens 290°, decomposes 340°.

reactant | N-[diaminophosphinyl]-4-nitrobenzamide | 0.12 mole, 30 g | NP(=O)(NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)N | C7H9N4O4P
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 4.0 g | [Pd] | Pd
solvent | dimethylformamide | 2000 ml | CN(C=O)C | C3H7NO
product | 4-Amino-N-[diaminophosphinyl]benzamide | NC1=CC=C(C(=O)NP(=O)(N)N)C=C1 | C7H11N4O2P
